datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23].[CH:10]1=[CH:11][CH:12]=[C:13]2[C:14]1=[CH:15][CH:66]=[CH:67][CH:68]=[CH:69]2>>C[N:33](C)[C:22](=[CH:21][CH2:20][CH:10]1[CH:11]=[CH:12][C:13]2=[C:14]1[CH+:15][CH:66]=[CH:67][CH:68]=[CH:69]2)[O-:23] 10,11=10,20;12,13=11,12;14,15=13,14;20,21=21,22;22,23=23"
"CCCC[CH:11]=[CH2:10].N#C/[CH:20]=[CH:21]/[C:22]#[N:23]>>CCCC[CH+:11][CH2:10][CH:20](C#N)[CH:21]=[C:22]=[N-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CN(C)C1=CC=C([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1.[CH-:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2>>CN(C)C1=CC=C([CH:20]([CH:10]2[CH:61]=[CH:62][C:72]3=[C:71]2[CH:76]=[CH:75][CH:74]=[CH:73]3)[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1 10=20;20,21=21"
"C1=CC=C([C:11](=[CH2:10])[NH:12][C:63](C2=CC=CC=C2)=[O:64])C=C1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH2:10][C:11](C2=CC=CC=C2)=[NH+:12][C:63](C2=CC=CC=C2)=[O:64])[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C[C:11]1=[CH:10][CH:61]=[CH:62][C:13]([O:14]C)=[CH:12]1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[C:11]1=[CH:12][C:13](=[O+:14]C)[CH:62]=[CH:61][CH:10]1[CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]1 10,11=10,20;12,13=11,12;14=13,14"
"C[Si:11]1([H:10])CCCC1.F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>C[Si+:11]1CCCC1.F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C:20]([H:10])([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1 10,11=10,20"
"C1=CC=C(/[C:10](=[C:11](\[O-:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:82])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10](C2=CC=CC=C2)([C:11](=[O:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:82])[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(/[C:10](=[C:11](\[O-:12])[C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:81]#[N:82])C=C1.C1=CC=C(C2C3[CH:20](C4=CC=CC=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1>>C1=CC=C(C2C([CH:20](C3=CC=CC=C3)[C:10](C3=CC=CC=C3)([C:11](=[O:12])[C:61]3=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]3)[C:81]#[N:82])[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 10,11=10,20;12=11,12;20,21=21"
"C[Si:11](C)(CC1=CC=CC(Cl)=C1)[H:10].F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>C[Si+:11](C)CC1=CC=CC(Cl)=C1.F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([H:10])([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10,11=10,20"
"CC[O:72][C:11](=[CH:10][P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12].C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=CC=CC=C21>>CC[O:72][C:11]([CH:10]([CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC[O:72][C:61]([CH-:10][C:81](C1=CC=CC=C1)=[O:82])=[O:62]>>CC[O:72][C:61]([CH:10]([CH:20]([N:21]1CCCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:81](C1=CC=CC=C1)=[O:82])=[O:62] 10=20;20,21=21"
"C1=CC=C([Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)[O:12][C:11]2=[CH:10]CCC2)C=C1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([CH:10]3CCC[C:11]3=[O+:12][Si:63](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C/[C:11](=[CH:10]/[C:61](C)=[O:62])[O-:12].CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20]([CH:10]([C:11](C)=[O:12])[C:61](C)=[O:62])[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"FC(F)(F)[C:62]1=[C:61]([O-:10])[CH:72]=[CH:73][CH:64]=[CH:63]1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C[CH:20]1C2C3C54>>[O+]#C[Fe-3:21]123(C#[O+])(C#[O+])C4C[CH:20]([O:10][C:61]5=[C:62](C(F)(F)F)[CH:63]=[CH:64][CH:73]=[CH:72]5)C1C2C43 10=20;20,21=21"
